US09120744B2
β-D-Glucopyranose Pentakis[3,4,5-tris(phenylmethoxy)-benzoate].
A mixture of 1.17 mmol of D-glucose, 8.57 mmol of 3,4,5-tribenzyloxybenzoic acid, 10.68 mmol of EDC.HCl and 9.84 mmol of DMAP was suspended in 130 mL of CH2Cl2 and was heated at reflux overnight. The cooled reaction mixture was then extracted with 1N HCl (3×), saturated NaHCO3 (2×), and brine (2×), the organic layer was dried over MgSO4, filtered, and concentrated. The resulting residue was purified by column chromatography over silica gel (75:24:1 CH2Cl2:toluene:ethyl acetate) to provide 0.253 g (9%) of product. 1H NMR (CDCl3, 400 MHz) δ 7.45-7.15 (m, 85H), 6.21 (d, J=8.0 Hz, 1H), 6.05 (t, J=10.0 Hz, 1H), 5.84 (dd, J=10.0, 8.0 Hz, 1H), 5.73 (t, J=10.0 Hz, 1H), 5.14-4.92 (m, 30H), 4.76 (m, 1H), 4.44 (m, 1H), 4.35 (m, 1H).

reactant | D-glucose | 1.17 mmol | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | 3,4,5-tribenzyloxybenzoic acid | 8.57 mmol | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C28H24O5
reactant | EDC.HCl | 10.68 mmol | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 9.84 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 130 mL | C(Cl)Cl | CH2Cl2
product | β-D-Glucopyranose Pentakis[3,4,5-tris(phenylmethoxy)-benzoate] | 0.253 g, 9% | C1(=CC=CC=C1)COC=1C=C(C(=O)O[C@H]2[C@H](OC(C3=CC(=C(C(=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)[C@@H](OC(C3=CC(=C(C(=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)[C@H](OC(C3=CC(=C(C(=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)OCC3=CC=CC=C3)=O)[C@H](O2)COC(C2=CC(=C(C(=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)=O)C=C(C1OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C146H122O26
